US07122666B2
37.4 ml (269 mmol) of triethylamine, 38.76 g (257 mmol) of t-butyldimethylsilyl chloride and 2.99 g (24.5 mmol) of 4-dimethylaminopyridine were added, in turn, to a solution of 104.98 g (245 mmol) of (2S,4R)-1-benzyloxycarbonyl-2-hydroxymethyl-4-(p-toluenesulfonyloxy)pyrrolidine [obtained as described in Preparative Example 12(i)′ above] in 610 ml of methylene chloride, and the resulting mixture was then stirred at room temperature overnight. At the end of this time, the reaction mixture was concentrated by evaporation under reduced pressure, and the resulting residue was partitioned between ethyl acetate and water. The organic extract was washed with water, dried over anhydrous magnesium sulfate and then concentrated by evaporation under reduced pressure. The resulting residue was purified by chromatography on a silica gel column using a 1:1 by volume mixture of hexane and ethyl acetate as the eluant to afford 119.34 g (yield: 94%) of (2S,4R)-1-benzyloxycarbonyl-2-(t-butyldimethylsilyloxy)methyl-4-(p-toluenesulfonyloxy)pyrrolidine as a yellow oil.

reactant | triethylamine | 269 mmol, 37.4 ml | C(C)N(CC)CC | C6H15N
reactant | t-butyldimethylsilyl chloride | 257 mmol, 38.76 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | (2S,4R)-1-benzyloxycarbonyl-2-hydroxymethyl-4-(p-toluenesulfonyloxy)pyrrolidine | 245 mmol, 104.98 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C1=CC=C(C=C1)C)CO | C20H23NO6S
catalyst | 4-dimethylaminopyridine | 24.5 mmol, 2.99 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 610 ml | C(Cl)Cl | CH2Cl2
product | (2S,4R)-1-benzyloxycarbonyl-2-(t-butyldimethylsilyloxy)methyl-4-(p-toluenesulfonyloxy)pyrrolidine | 119.34 g, yield: 94% | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C1=CC=C(C=C1)C)CO[Si](C)(C)C(C)(C)C | C26H37NO6SSi
